* Overcurrent Protection (OCP) Circuit Simulation
* sim_17_ocp_protection.cir
*
* PURPOSE: Hardware overcurrent protection with fast response time
*          using full-wave rectification for detecting AC current peaks.
*
* KEY RESULTS:
*   - Response time: ~33ns from threshold crossing to comparator output
*   - Cycle-by-cycle protection (pulses when overcurrent detected)
*   - Latching behavior added in sim_20 (fault integration)
*
***************************************************************************

.title Overcurrent Protection (OCP) Circuit Simulation

.include ../models/current_transformer.sub

***************************************************************************
* POWER SUPPLIES
***************************************************************************
V_vcc vcc 0 DC 5

***************************************************************************
* SIMULATED TANK CURRENT
***************************************************************************
* Test: Current suddenly increases from 40A to 60A at t=50us
B_tank tank_p 0 I = {
+ time < 50u ? 40*sin(2*3.14159*35000*time) :
+ 60*sin(2*3.14159*35000*time)}

* Current transformer (1:1000)
X_ct tank_p 0 ct_out 0 CURRENT_TRANSFORMER N=1000 LM=10m LL=100u RW=50

* Burden resistor (50Ω) - gives ±2.0V at 40A, ±3.0V at 60A
R_burden ct_out 0 50

***************************************************************************
* FULL-WAVE PRECISION RECTIFIER (Behavioral)
***************************************************************************
* Output = |V_in|
* In hardware: Use precision rectifier with op-amp + diodes
B_abs abs_out 0 V = {abs(V(ct_out))}

* Small filter for noise immunity
R_filt abs_out filt_out 100
C_filt filt_out 0 10p

***************************************************************************
* COMPARATOR (TLV3201 behavioral model)
***************************************************************************
* Reference: 2.5V for 50A threshold
R_ref1 vcc v_ref 10k
R_ref2 v_ref 0 10k

* Hysteresis (~10%)
R_hyst comp_out hyst_node 470k
R_in filt_out hyst_node 47k

* Comparator with 40ns propagation delay
B_comp comp_int 0 V = {5 * (1 + tanh((V(hyst_node) - V(v_ref)) * 50)) / 2}
R_delay comp_int delay_node 1k
C_delay delay_node 0 40p
B_out comp_out 0 V = {V(delay_node) > 2.5 ? 5.0 : 0.0}

* Load
R_load comp_out 0 10k

***************************************************************************
* ANALYSIS
***************************************************************************
.tran 5n 150u uic

***************************************************************************
* MEASUREMENTS
***************************************************************************
* First trip after fault
.meas tran t_first_trip WHEN v(comp_out)=2.5 RISE=1 FROM=50u

* Response time from fault onset
.meas tran t_response PARAM='t_first_trip - 50u'

* Normal operation peaks
.meas tran v_abs_normal MAX v(abs_out) FROM=20u TO=45u

* Fault peaks
.meas tran v_abs_fault MAX v(abs_out) FROM=60u TO=100u

* Count trips (measure time between first and second trip during fault)
.meas tran t_second_trip WHEN v(comp_out)=2.5 RISE=2 FROM=50u
.meas tran trip_period PARAM='t_second_trip - t_first_trip'

.control
run

echo ""
echo "============================================"
echo "OCP Circuit Verification - Simulation 17"
echo "============================================"
echo ""
echo "Configuration:"
echo "  CT ratio: 1:1000"
echo "  Burden: 50 ohm (2.5V at 50A)"
echo "  Comparator: TLV3201 (40ns prop delay)"
echo "  Full-wave rectification for AC detection"
echo ""
echo "Test Scenario:"
echo "  0-50us:  40A peak (below 50A threshold)"
echo "  50us+:   60A peak (above threshold - fault)"
echo ""
echo "============================================"
echo "DETECTION PERFORMANCE"
echo "============================================"
echo ""
echo "Rectified peak during normal (40A, expect 2.0V):"
print v_abs_normal
echo ""
echo "Rectified peak during fault (60A, expect 3.0V):"
print v_abs_fault
echo ""
echo "============================================"
echo "TIMING RESULTS"
echo "============================================"
echo ""
echo "First trip after fault onset (50us):"
print t_first_trip
echo ""
echo "Response time (target: <half cycle = 14.3us):"
print t_response
echo ""
echo "Second trip (shows cycle-by-cycle behavior):"
print t_second_trip
echo ""
echo "Trip period (expect ~14.3us = half of 35kHz):"
print trip_period
echo ""
echo "============================================"
echo "SUMMARY"
echo "============================================"
echo ""
echo "The OCP circuit provides cycle-by-cycle overcurrent"
echo "detection. When tank current exceeds 50A, the"
echo "comparator pulses HIGH for the portion of each"
echo "half-cycle where |I| > 50A."
echo ""
echo "Response time is limited by when the fault occurs"
echo "relative to the AC waveform phase. Worst case is"
echo "one half-cycle (~14.3us at 35kHz)."
echo ""
echo "Once detected, the fault signal feeds into the"
echo "latching logic (sim_20) which maintains the DISABLE"
echo "state until manual reset."
echo ""
echo "PASS CRITERIA:"
echo "  - Detection within one half-cycle: "
if t_response < 15u
  echo "    PASS"
else
  echo "    FAIL"
end
echo "  - No false trip at 40A (v_abs < 2.5V):"
if v_abs_normal < 2.5
  echo "    PASS"
else
  echo "    FAIL"
end
echo "  - Correct detection at 60A (v_abs > 2.5V):"
if v_abs_fault > 2.5
  echo "    PASS"
else
  echo "    FAIL"
end
echo ""

quit
.endc

.end
